2200-12-20 04:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2200-12-19**] 02:30 PM
 ULTRASOUND - At [**2200-12-19**] 03:08 PM
   abdominal
   ET tube & NGT adjusted
   Abd ultrasound was done: AAA 3.9x3.7 cm at greatest diameters
   Lasix 20 IV with good urine output in the morning; bolused 250 cc for
   low UOP overnight
   ECHO showed LVEF 55%, mild LVH, mild pulmonary HTN
   Steroids given in anticipation of extubation
   OGT removed d/t coiling in throat; NGT placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-20**] 04:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 50 (47 - 62) bpm
   BP: 111/62(73) {103/62(73) - 182/99(154)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    430 mL
                                                                    590 mL
   PO:
             TF:
   IVF:
                                                                    400 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                  1,881 mL
                                                                    182 mL
   Urine:
                                                                  1,881 mL
                                                                    182 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,451 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 240 (240 - 240) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 26 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.37/46/342/28/1
   Ve: 8.1 L/min
   PaO2 / FiO2: 855
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): , Movement:
   Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   283 K/uL
   13.6 g/dL
   132 mg/dL
   1.3 mg/dL
   28 mEq/L
   4.2 mEq/L
   18 mg/dL
   102 mEq/L
   139 mEq/L
   40.7 %
   6.0 K/uL
        [image002.jpg]
                             [**2200-12-19**]  08:45 AM
                             [**2200-12-19**]  11:36 AM
                             [**2200-12-20**]  01:36 AM
   WBC
   6.9
   6.0
   Hct
   39.3
   40.7
   Plt
   284
   283
   Cr
   1.2
   1.3
   TCO2
   28
   Glucose
   146
   132
   Other labs: PT / PTT / INR:14.7/27.5/1.3, Differential-Neuts:94.4 %,
   Lymph:3.5 %, Mono:1.4 %, Eos:0.5 %, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   A/P: 85 yo with PMH of COPD, stroke, HTN who presented with stridor and
   was intubated.
   .
   # ? Stridor: unclear [**Name2 (NI) 3360**].  CT of neck and head do not show clear
   etiology, no fluid collections.  Per nursing, have been suctioning
   blood from ETT.  Pt doing well on AC currently.
   - SBT today, plan to extubate tomorrow with anesthesia present in case
   of re-intubation
   - reculture for ? infectious etiology
   - consider bronchoscopy if extubation is unsuccessful
   .
   # Elevated BNP: nl EF by ECHO [**2196**].  Does not look overloaded, but has
   some pleural effusions.  Got lasix X 1 yesterday but is hypotensive
   with low urine output.
   - [**Doctor Last Name **] hydration today with 250 ml NS
   .
   # elevated BG: by finger stick, BG was 150.  OK by chem 7.  No history
   of diabetes.
   - conservative SSI
   .
   # HTN:
   - home diovan when underlying etiology determined, hold for now given
   he may need procedures
   .
   # hx of stroke:
   will hold ASA and aggrenox until we know there is no bleed and while we
   await procedures.
   .
   # COPD: not currently wheezing
   - nebs
   .
   # EtOH abuse:
   - CIWA
   .
   # PPx: sc heparin, bowel reg, h2 blocker
   .
   # FEN: NPO for now, anticipating extubation
   .
   # code: DNR
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-19**] 10:06 AM
   20 Gauge - [**2200-12-19**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 85M COPD presented with respiratory distress
   and stridor. ENT eval normal above the cords x ? edema. Intubated and
   transferred to MICU for further management. Overnight diuresed for
   elevated BNP / cxr wet but then received IVF bolus X 2 for low u/o.  CT
   neck with glottic edema. receiving steroids for cord edema, + cuff
   leak.
   Exam notable for Tm 97.4 Tl 94.6 Tc 96.6  BP 111/62 HR 50-60 RR 14 with
   sat 97% on VAC 550/14/5/40%  - 1.4L 24 hrs; WD man, NAD on vent. CTA
   without wheeze, rrr s1s2. Soft NT +BS. No edema. Labs notable for WBC
   6K, HCT 40.7, Cr 1.3; CXR with increased haziness at R base, et ok,
   Agree with plan to treat patient for acute exacerbation of COPD and
   also ? upper airway edema with course of steroids. Status of his
   subglottic trachea is unclear. [**Name2 (NI) 133**] wean sedation and plan for
   extubation in am with anesthesia present. Hypothermic this am of
   unclear etiology, but concering for infection, though HD stable and
   without leukocytosis. Pan cx.  If change in status will cover
   broadly as no clear infectious source. Will give gente hydration given
   low urine output and neg fluid status over 24 hrs. Low dose SSI while
   on steroids. Patient is DNR. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2200-12-20**] 07:59 PM ------

2200-12-21 05:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Had low uop, got some gentle hydration in the morning
   Uop did not improve, got Lasix 10mg IV X 1 overnight with response
   SBT today went well, possible extubation.  Having some secretions.
 BLOOD CULTURED - At [**2200-12-20**] 03:57 PM
   periph blood cx x2 sent
 SPUTUM CULTURE - At [**2200-12-20**] 03:57 PM
 URINE CULTURE - At [**2200-12-20**] 03:57 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2200-12-20**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-12-20**] 09:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-21**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 60 (51 - 77) bpm
   BP: 161/78(187) {94/51(61) - 170/107(187)} mmHg
   RR: 16 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.1 kg (admission): 74 kg
             Total In:
                                                                  2,149 mL
                                                                    144 mL
   PO:
             TF:
   IVF:
                                                                  2,119 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    884 mL
                                                                    280 mL
   Urine:
                                                                    884 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,265 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 461 (373 - 492) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Lymphatic: Cervical WNL
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: CTA b/l with some wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, no distension: ,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): , Movement:
   Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   296 K/uL
   12.9 g/dL
   141 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   27 mg/dL
   106 mEq/L
   141 mEq/L
   38.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2200-12-19**]  08:45 AM
                             [**2200-12-19**]  11:36 AM
                             [**2200-12-20**]  01:36 AM
                             [**2200-12-21**]  03:07 AM
   WBC
   6.9
   6.0
   8.8
   Hct
   39.3
   40.7
   38.2
   Plt
   [**Telephone/Fax (3) 3419**]
   Cr
   1.2
   1.3
   1.4
   TCO2
   28
   Glucose
   146
   132
   141
   Other labs: PT / PTT / INR:14.7/27.5/1.3, Differential-Neuts:94.4 %,
   Lymph:3.5 %, Mono:1.4 %, Eos:0.5 %, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
   A/P: 85 yo with PMH of COPD, stroke, HTN who presented with stridor and
   was intubated.
   .
   # ? Stridor: unclear [**Name2 (NI) 3360**].  CT of neck and head do not show clear
   etiology, no fluid collections.  Per nursing, have been suctioning
   blood from ETT.  Pt doing well on AC currently.
   - SBT today, plan to extubate possibly today depending on anesthesia
   availability
   - F/u cultures for  infectious etiology
   - consider bronchoscopy if extubation is unsuccessful
   .
   # Elevated BNP: nl EF by ECHO [**2196**].  Does not look overloaded, but has
   some pleural effusions.  Got lasix X 1 yesterday but is hypotensive
   with low urine output.
   - given rising creatinine will not attempt diuresis today
   .
   # Elevated Creatinine:
   - check urine lytes, no diuretics today
   - continue to monitor
   - hold ACE and ARBs
   .
   # elevated BG: by finger stick, BG was 150.  OK by chem 7.  No history
   of diabetes.
   - conservative SSI
   .
   # HTN: Pt currently normotensive
   - on diovan at home, holding due to elevated creatinine.
   .
   # hx of stroke:
   - restart ASA and Aggrenox today
   .
   # COPD: not currently wheezing
   - nebs PRN
   .
   # EtOH abuse: has no evidence of withdrawal.
   - CIWA
   .
   # PPx: sc heparin, bowel reg, h2 blocker
   .
   # FEN: NPO for now, anticipating extubation.  If no extubation today,
   will start tube feeds.
   .
   # code: DNR
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-19**] 10:06 AM
   20 Gauge - [**2200-12-19**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 85M COPD presented with respiratory distress
   and stridor. ENT eval normal above the cords x ? edema. Intubated and
   transferred to MICU for further management. CT neck with glottic edema.
   receiving steroids for cord edema, + cuff leak.  Hypothermic
   yesterday--> pan cx'd.  Weaned to PSV with plan for extubation today.
   Exam notable for Tm 98.8  BP 94-151/70-107  HR 50-80 RR 15 with sat 99%
   on PS 10/5 (40%)-->5/0--> TV 450 RR 23   WD man, NAD on vent, remains
   somnolent, distant BS, rrr s1s2. soft NT +BS. No edema. Labs notable
   for WBC 8.8K, HCT 38, Cr 1.4 (1.3 yest); CXR with increased haziness at
   R base, et ok. Micro--sputum [**12-20**] GNR 4+ in sputum, oral flora,
   bl/urine pending
   Agree with plan to treat for acute exacerbation of COPD and also ?
   upper airway edema with course of steroids. Status of his subglottic
   trachea is unclear. Had increased secretions last night and cxr
   yesterday with ? slight haziness at R base.  Doing well now on SBT with
   minimal secretions.  Has strong cough and cuff leak.  WIll repeat abg
   on current settings and check cxr.  Once more awake (sedation off) will
   assess for extubation with anesthesia present given concern for upper
   airway.  Hypothermic X 1 check yesterday but normothermic since.
   Remains without leukocytosis, cx's pending.  Holding antibx at this
   time as no clear infectious source. Cr increased slightly and BUN
   up--suspect he is prerenal (NPO for extubation).  Has been
   normotensive/hypertensive and has diastolic dysfx on echo.  If unable
   to extubate, will start BP meds (on [**Last Name (un) **] at home) and TFs. Low dose SSI
   while on steroids. Patient is DNR. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2200-12-21**] 03:15 PM ------

2200-12-22 05:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated, subsequent ABGs are encouraging.
   - Rpt ABG in the AM.
   - Urine electrolytes revealed a pre-renal picture, received bolus:
   readdress in the morning.
   - Restarted ASA and Aggrenox
   - Assess TF/PO in the morning once he has had some time to protect his
   airway (speech and swallow consulted to evaluate).
   - Consider discontinuing steroids post-extubation in the AM.
   - Started Losartan, an equivalent to home medication - will need to up
   titrate to BP control.
   - Pt. removed NGT
 INVASIVE VENTILATION - STOP [**2200-12-21**] 05:15 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-12-21**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-22**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 62 (53 - 77) bpm
   BP: 147/96(104) {123/63(82) - 185/97(119)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.1 kg (admission): 74 kg
             Total In:
                                                                  1,111 mL
                                                                     53 mL
   PO:
             TF:
   IVF:
                                                                    871 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                    678 mL
                                                                    132 mL
   Urine:
                                                                    678 mL
                                                                    132 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    433 mL
                                                                    -79 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 386 (386 - 512) mL
   PS : 7 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: 7.44/37/108/25/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic,
   Lymphatic: Cervical WNL
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: CTA b/l with some wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, no distension: ,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): , Movement:
   Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   284 K/uL
   13.6 g/dL
   128 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   35 mg/dL
   107 mEq/L
   143 mEq/L
   40.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2200-12-19**]  08:45 AM
                             [**2200-12-19**]  11:36 AM
                             [**2200-12-20**]  01:36 AM
                             [**2200-12-21**]  03:07 AM
                             [**2200-12-21**]  11:27 AM
                             [**2200-12-21**]  07:01 PM
                            [**2200-12-22**]  02:08 AM
   WBC
   6.9
   6.0
   8.8
   8.8
   Hct
   39.3
   40.7
   38.2
   40.1
   Plt
   [**Telephone/Fax (3) 3445**]84
   Cr
   1.2
   1.3
   1.4
   1.4
   TCO2
   28
   25
   26
   Glucose
   146
   132
   141
   128
   Other labs: Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.9 mg/dL;  ABG 7.43 /
   36 / 70 / 25
   Micro: sputum G stain 4+ GNRs, 2+ oropharyngeal flora; MRSA neg, urine
   neg.
   Assessment and Plan
   A/P: 85 yo with PMH of COPD, stroke, HTN who presented with stridor and
   was intubated.
   .
   # ? Stridor: unclear [**Name2 (NI) 3360**].  CT of neck and head do not show clear
   etiology, no fluid collections.  Per nursing, have been suctioning
   blood from ETT.  Pt doing well post extubation.
   - F/u cultures for  infectious etiology
   - Will taper steroids given that pt. has received high dose steroids
   since evening of [**12-21**]; decrease to prednisone 60 po daily
   .
   # Elevated BNP: nl EF by ECHO [**2196**].  Does not look overloaded, but has
   some pleural effusions.  Got lasix X 1 yesterday but is hypotensive
   with low urine output.
   - given rising creatinine will not attempt diuresis today
   .
   # Elevated Creatinine: Likely pre-renal.  Pt. looks dry this am.  Will
   place on maintenance IVF
   - hold ACE and ARBs
   .
   # elevated BG: by finger stick, BG was 150.  OK by chem 7.  No history
   of diabetes.
   - conservative SSI
   .
   # HTN: Pt currently normotensive
   - on diovan at home; low dose losartan due to elevated creatinine.
   .
   # hx of stroke:
   - restart ASA and Aggrenox today
   .
   # COPD: not currently wheezing
   - nebs PRN
   .
   # EtOH abuse: has no evidence of withdrawal.
   - CIWA
   .
   # PPx: sc heparin, bowel reg, h2 blocker
   .
   # FEN: Pt
s mental status not adequate for taking POs.  Will place
   dubhoff and start tube feeds.
   .
   # code: DNR
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-19**] 10:06 AM
   20 Gauge - [**2200-12-19**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2200-12-22 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated without event yesterday
   No recurrent stridor noted
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2200-12-21**] 05:15 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-12-22**] 08:00 AM
   Diazepam (Valium) - [**2200-12-22**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2200-12-22**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 64 (53 - 77) bpm
   BP: 168/68(97) {118/55(82) - 185/109(117)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.1 kg (admission): 74 kg
             Total In:
                                                                  1,111 mL
                                                                    209 mL
   PO:
             TF:
   IVF:
                                                                    871 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                    678 mL
                                                                    273 mL
   Urine:
                                                                    678 mL
                                                                    273 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    433 mL
                                                                    -64 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 386 (386 - 423) mL
   PS : 7 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.43/36/70/25/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed.  Patient does
   respond to verbal questions.  He is, however, not oriented to person,
   place or time.  He does have normal U/E reflexes and normal response to
   PT reflex in his left LE (Right has BKA).  He has surgical changes in
   left pupil and normal right pupil.
   Labs / Radiology
   13.6 g/dL
   284 K/uL
   128 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   35 mg/dL
   107 mEq/L
   143 mEq/L
   40.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2200-12-19**]  08:45 AM
                             [**2200-12-19**]  11:36 AM
                             [**2200-12-20**]  01:36 AM
                             [**2200-12-21**]  03:07 AM
                             [**2200-12-21**]  11:27 AM
                             [**2200-12-21**]  07:01 PM
                            [**2200-12-22**]  02:08 AM
                            [**2200-12-22**]  08:04 AM
   WBC
   6.9
   6.0
   8.8
   8.8
   Hct
   39.3
   40.7
   38.2
   40.1
   Plt
   [**Telephone/Fax (3) 3445**]84
   Cr
   1.2
   1.3
   1.4
   1.4
   TCO2
   28
   25
   26
   25
   Glucose
   146
   132
   141
   128
   Other labs: PT / PTT / INR:14.7/27.5/1.3, Differential-Neuts:94.4 %,
   Lymph:3.5 %, Mono:1.4 %, Eos:0.5 %, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.9 mg/dL
   Fluid analysis / Other labs: 7.43/36/70--
   Microbiology: Sputum GS--mixed flora
   Assessment and Plan
   85 yo with history of A-Fib and admitted with respiratory failure in
   the setting of chronic obstructive lung disease now with succesful
   extubation in the setting of concern for upper airway compromise.
   Respiratory Failure-Intubated in the setting of stridor and given
   steroids as primary treatment.
 OLIGURIA/ANURIA
 .H/O ATRIAL FIBRILLATION (AFIB) and HYPERTENSION
   -on ASA and antiplatelet agents
   -Losartan to start
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   -Alb/Atrovent
   -Solumedrol to stop today as treatment was primarily for upper airway
   obstruction
   -Prednisone to 40mg today
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -Extubated successfully
   Altered Mental Status-
   -Clearly multifactorial and has findings consistent with delirium
   without unilateral changes in neuro exam with exception of LE reflex
   exam limited by BKA
   -Decrease Prednisone as rapidly as possible
   -Continue Valium for possible EtOH withdrawl
   -Re-orient as needed
   -Head CT for any worsening or unilateral findings.
   ICU Care
   Nutrition: Will need NGT for feeds if not improved today.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2200-12-19**] 10:06 AM
   20 Gauge - [**2200-12-19**] 10:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2200-12-23 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Failed speech and swallow eval
   -Had NGT placed
   -Nutrition consult for tube feeeds
   -d/c solumedrol & started 60 mg PO prednisone; 40 mg today
   -D5 1/2 NS maint. fluids x 2L + 500 cc NS bolus for low urine output
   -
Agitated
 overnight, got 15 mg valium per CIWA, but no effect
   -[**Female First Name (un) **] Psych consult in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2200-12-22**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-12-22**] 02:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-23**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 88 (58 - 88) bpm
   BP: 184/80(107) {97/53(64) - 193/123(133)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.1 kg (admission): 74 kg
   Height: 69 Inch
             Total In:
                                                                    312 mL
                                                                    491 mL
   PO:
             TF:
             62 mL
   IVF:
                                                                    212 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                    683 mL
                                                                     75 mL
   Urine:
                                                                    683 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -371 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.43/36/70/24/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic,
   Lymphatic: Cervical WNL
   Cardiovascular: RRR, no m/r/g
   Respiratory / Chest: CTA b/l with some wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, no distension: ,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, No(t) Oriented (to): , Movement:
   Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   246 K/uL
   13.2 g/dL
   115 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   31 mg/dL
   107 mEq/L
   142 mEq/L
   39.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2200-12-19**]  08:45 AM
                             [**2200-12-19**]  11:36 AM
                             [**2200-12-20**]  01:36 AM
                             [**2200-12-21**]  03:07 AM
                             [**2200-12-21**]  11:27 AM
                             [**2200-12-21**]  07:01 PM
                            [**2200-12-22**]  02:08 AM
                            [**2200-12-22**]  08:04 AM
                            [**2200-12-23**]  02:24 AM
   WBC
   6.9
   6.0
   8.8
   8.8
   8.8
   Hct
   39.3
   40.7
   38.2
   40.1
   39.3
   Plt
   [**Telephone/Fax (3) 3445**]84
   246
   Cr
   1.2
   1.3
   1.4
   1.4
   1.3
   TCO2
   28
   25
   26
   25
   Glucose
   146
   132
   141
   128
   115
   Other labs: Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Sputum 4+ GNRs & 2+ oropharyngeal flora
   Assessment and Plan
   A/P: 85 yo with PMH of COPD, stroke, HTN who presented with stridor and
   was intubated.
   .
   # ? Stridor: unclear [**Name2 (NI) 3360**].  CT of neck and head do not show clear
   etiology, no fluid collections.  Was started on high dose steroids due
   to concern for upper airway edema/swelling, but no evidence thereof on
   extubation.  Earlier in hospital course, nursing was suctioning blood
   from ETT.  Pt doing well post extubation.
   - F/u cultures for  infectious etiology
   - Tapering steroids: 60 mg prednisone [**12-22**], 40 mg [**12-23**], 30 mg [**12-14**],
   and decrease by 10 mg Qday to 10 mg then 5 mg then stop.
   .
   # Elevated BNP: nl EF by ECHO [**2196**].  Does not look overloaded, but has
   some pleural effusions.  Got lasix X 1 but then was hypotensive with
   low urine output so diuresis held.
   .
   # Elevated Creatinine: Likely pre-renal.  Was placed on maintenance IVF
   [**12-22**]
   - hold ACE and ARBs
   .
   # elevated BG: by finger stick, BG was 150.  OK by chem 7.  No history
   of diabetes.
   - conservative SSI
   .
   # HTN: Pt currently normotensive
   - on diovan at home; low dose losartan due to elevated creatinine.
   .
   # hx of stroke:
   - restart ASA and Aggrenox
   .
   # COPD: not currently wheezing
   - nebs PRN
   .
   # EtOH abuse / agitation: Has hx of EtOH use, but no idea of how much
   he drinks.  He was asking for whisky while agitated on evening of
   [**12-22**], but did not respond to valium.  Continue CIWA, but keep in mind
   that he could be agitated for other reasons, including sundowning, and
   may instead benefit from a small dose of zyprexa.
   .
   # PPx: sc heparin, bowel reg, h2 blocker
   .
   # FEN: Pt
s mental status not adequate for taking POs.  NGT placed,
   nutrition consulted.  Starter TF orders currently in place.
   Speech/swallow will reassess later in the week.
   .
   # code: DNR
   .
   # Dispo: c/o to floor, under care of pt
s PCP, [**Last Name (NamePattern4) **]. [**First Name (STitle) 657**].
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2200-12-23**] 12:58 AM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-19**] 10:06 AM
   20 Gauge - [**2200-12-22**] 06:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2200-12-23 10:28:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure-_Acute
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with speech and swallow showing evidence of aspiration
   Patient with some agitation with only partial response to
   benzodiazepines
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2200-12-22**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-12-22**] 02:54 PM
   Hydralazine - [**2200-12-23**] 06:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2200-12-23**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 82 (60 - 98) bpm
   BP: 136/69(86) {97/53(64) - 193/123(133)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.1 kg (admission): 74 kg
   Height: 69 Inch
             Total In:
                                                                    312 mL
                                                                  1,326 mL
   PO:
             TF:
             141 mL
   IVF:
                                                                    212 mL
                                                                  1,015 mL
   Blood products:
   Total out:
                                                                    683 mL
                                                                    240 mL
   Urine:
                                                                    683 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -371 mL
                                                                  1,086 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Some visual hallucinations
   last pm
This morning he has insight into the fact he is in a medical
   care situation but is not able to report hospital.
   Labs / Radiology
   13.2 g/dL
   246 K/uL
   115 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   31 mg/dL
   107 mEq/L
   142 mEq/L
   39.3 %
   8.8 K/uL
        [image002.jpg]
                             [**2200-12-19**]  08:45 AM
                             [**2200-12-19**]  11:36 AM
                             [**2200-12-20**]  01:36 AM
                             [**2200-12-21**]  03:07 AM
                             [**2200-12-21**]  11:27 AM
                             [**2200-12-21**]  07:01 PM
                            [**2200-12-22**]  02:08 AM
                            [**2200-12-22**]  08:04 AM
                            [**2200-12-23**]  02:24 AM
   WBC
   6.9
   6.0
   8.8
   8.8
   8.8
   Hct
   39.3
   40.7
   38.2
   40.1
   39.3
   Plt
   [**Telephone/Fax (3) 3445**]84
   246
   Cr
   1.2
   1.3
   1.4
   1.4
   1.3
   TCO2
   28
   25
   26
   25
   Glucose
   146
   132
   141
   128
   115
   Other labs: PT / PTT / INR:14.7/27.5/1.3, Differential-Neuts:94.4 %,
   Lymph:3.5 %, Mono:1.4 %, Eos:0.5 %, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.7 mg/dL
   Imaging: CXR--NGT in good position on repeat film last pm--left LL
   opacity in retrocardiac region onsistent with collpase
   Assessment and Plan
   85 yo male with known history of chronic obstructive lung disease now
   admit with respiratory failure and concern for upper airway obstruction
   but now able to tolerate extubation without evidence of upper airway
   compromise.  HE has had some significant issues with tolerance of PO
   intake and risk is elevated for aspiration event and one does wonder if
   the initial insult of stridor may well have been laryngeal irritation
   with reflux as lesion not seen upon extubation.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
Given
   night-time delirium would favor minimization of benzodiazepines.  He
   has consumption of [**3-16**] drinks/nt by report and therefore may have
   relatively limited risk of significant DT
   -Seroquel as needed
   -Benzodiazepines only for autonomic activation consistent with
   withdrawl
favor Anti-psychotics for agitation.
 .H/O DELIRIUM / CONFUSION
 OLIGURIA/ANURIA
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -Prednisone to taper to off
   ICU Care
   Nutrition: Tube feeds and will continue and re-evaluate with clinical
   improvement
   Fibersource HN (Full) - [**2200-12-23**] 12:58 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-12-23**] 09:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes